US04636510
(xvii) 4-(3-hydroxyphenyl)-6-methyl-4,5,6,7-tetrahydro-furano[3,2-c]pyridine (m.p.: 251°-252° C. (hydrochloride))
A solution of 10 gm (0.082 mol) of furfurylmethylamine in 50 ml of ethanol and 10 gm of triethylamine was mixed with 17 gm of p-methylphenacylbromide and stirred for two hours. The triethylamine hydrochloride precipitated was subjected to suction filtration. The mother liquor was mixed with 4 gm of sodium borohydride and stirred for one hour at ambient temperature. Then, water was added, and the mixture was extracted with ether. The ether solution was dried, and the ether was distilled off in vacuo. The 2-furfuryl-2-methylamino-1-p-methylphenyl ethanol was left behind in the form of an oil.

reactant | furfurylmethylamine | 0.082 mol, 10 gm | C(C1=CC=CO1)CN | C6H9NO
reactant | triethylamine | 10 gm | C(C)N(CC)CC | C6H15N
reactant | p-methylphenacylbromide | 17 gm | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(3-hydroxyphenyl)-6-methyl-4,5,6,7-tetrahydro-furano[3,2-c]pyridine | OC=1C=C(C=CC1)C1NC(CC2=C1C=CO2)C | C14H15NO2
